US07351733B2
6-Methyl-N-pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine was prepared from 6-methyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 2-chloropyrimidine in a similar manner as described above to give 5 mg (4%) of a yellow solid. 1H-NMR (CDCl3): δ 8.63 (s, 1H), 8.40 (d, 1H), 7.32 (d, 2H), 7.24 (d, 1H), 7.01 (d, 1H), 6.64 (t, 1H), 5.47 (d, 1H), 5.24 (q, 1 h), 2.74 (m, 2H), 2.44 (s, 3H), 2.36 (t, 1H), 2.00 (m, 3H); MS m/z 279 (M+1).

reactant | 6-methyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | CC=1C=C2C=3CCCC(C3NC2=CC1)N | C13H16N2
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | 6-Methyl-N-pyrimidin-2-yl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | CC=1C=C2C=3CCCC(C3NC2=CC1)NC1=NC=CC=N1 | C17H18N4
